US05496928
To a mixture of Boc-Leu-OH.H2O (2.5 g), H-DTrp-OBzl (2.9 g) and HOBT.H2O (1.6 g) in dichloromethane (50 ml) was added EDCI.HCl (2.0 g) under ice cooling. After being stirred at room temperature for 16 h, the mixture was washed with water, 10% aq. citric acid, sat. aq. NaHCO3 and brine successively, dried over MgSO4 and evaporated in vacuo. The residue was triturated with hexane to give Boc-Leu-DTrp-OBzl (4.79 g). To a solution of the dipeptide (753 mg) in dichloromethane (7 ml) were added methyl chloroformate (1 ml), pulverized NaOH (89 mg) and TBAHS (20 mg) under ice cooling. After being stirred of the mixture at room temperature for 30 min, pulverized NaOH (89 mg) was added. This procedure was repeated twice more. The reaction mixture was diluted with dichloromethane, washed with sat. aq. NaHCO3, 10% aq. citric acid, water and brine successively, dried over MgSO4 and evaporated in vacuo. The residue was recrystallized from dichloromethane and petroleum ether to give Boc-Leu-DTrp(COOMe)-OBzl (721 mg) as colorless crystals. The dipeptide (708 mg) was dissolved in methanol (7 ml) - THF (5 ml) and 10% Pd/C (70 mg) was added. The mixture was vigorously stirred at room temperature under an atmospheric pressure of hydrogen for 1 h. The reaction mixture was filtered and the filtrate was evaporated in vacuo to give Boc-Leu-DTrp(COOMe)-OH (580 mg).

reactant | Boc-Leu-OH.H2O | 2.5 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.O
reactant | H-DTrp-OBzl | 2.9 g | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C18H18N2O2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 2.0 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | H2O | 1.6 g | O | H2O
product | Boc-Leu-DTrp-OBzl | 4.79 g | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H37N3O5
